US06291682B1
3. 7-(1,3-dimethyl-5-hydroxypyrazole-4-carbonyl)-8-methyl-1,1-dioxothiochroman
Yield: 0.35 g (89% of theory) of 7-(1,3 dimethyl-5-hydroxypyrazole-4-carbonyl)-8-methyl-1,1-dioxo-thio-chroman O-ethyloxime)-5-hydroxypyrazole; 1H NMR (CDCl3): δ [ppm]=9.90 (1H, bs), 8.12 (1H, d), 7.35 (1H, d), 4.32 (2H, q), 3.65 (3H, s), 3.44 (4H, m), 2.70 (3H, s), 1.73 (3H, s), 1.38 (3H, tr).

reactant | 7-(1,3 dimethyl-5-hydroxypyrazole-4-carbonyl)-8-methyl-1,1-dioxo-thio-chroman O-ethyloxime | Yield: 0.35 g | C(C)ON=C(C=1C(=NN(C1O)C)C)C1=CC=C2CCCS(C2=C1C)(=O)=O | C18H23N3O4S
reactant | 5-hydroxypyrazole | OC1=CC=NN1 | C3H4N2O
product | 7-(1,3-dimethyl-5-hydroxypyrazole-4-carbonyl)-8-methyl-1,1-dioxothiochroman | CN1N=C(C(=C1O)C(=O)C1=CC=C2CCCS(C2=C1C)(=O)=O)C | C16H18N2O4S
